US06248740B1
Production of N-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]-2,2-dimethylglycine ethyl ester dihydrochloride
1.23 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 1.18 g of N-(6-chloroimidazo[1,2-b]pyridazine-2-carbonyl]-2,2-dimethylglycine ethyl ester were dissolved in 15 ml of N,N-dimethylformamide; 1.31 ml of N-ethyldiisopropylamine was added, followed by stirring at 70° C. for 9.5 hours. After cooling, aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected, concentrated under reduced pressure and dissolved in 5 ml of ethyl acetate; 0.28 ml of a 4 N hydrogen chloride solution in ethyl acetate was added, followed by concentration again. Ethyl acetate was added to the residue; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 284 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 1.23 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-(6-chloroimidazo[1,2-b]pyridazine-2-carbonyl]-2,2-dimethylglycine ethyl ester | 1.18 g | C(C)OC(C(NC(=O)C=1N=C2N(N=C(C=C2)Cl)C1)(C)C)=O | C13H15ClN4O3
reactant | N-ethyldiisopropylamine | 1.31 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]-2,2-dimethylglycine ethyl ester dihydrochloride | 284 mg | Cl.Cl.C(C)OC(C(NC(=O)C=1N=C2N(N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1)(C)C)=O | InChI=1S/C34H42N6O4.2ClH/c1-4-43-33(42)34(2,3)37-32(41)28-24-40-30(36-28)17-16-29(38-40)35-20-11-21-39-22-18-27(19-23-39)44-31(25-12-7-5-8-13-25)26-14-9-6-10-15-26;;/h5-10,12-17,24,27,31H,4,11,18-23H2,1-3H3,(H,35,38)(H,37,41);2*1H
